US04302464
A. 2-methyl-4-acetylpyridine
A solution of 3.5 g. (29.7 mmoles) of 2-methyl-4-cyanopyridine in 20 ml. of dry ether was added dropwise to a cooled (5° C.) solution of 20 ml. of 3.0 M methyl magnesium bromide in ether. After addition was complete the mixture was allowed to warm to room temperature and stirred for 18 hours. The reaction mixture was cooled to 5° C. and the excess Grignard reagent decomposed by the addition of water. The mixture was acidified with 6 N hydrochloric acid and the aqueous phase was separated. The ether phase was again extracted with 30 ml. of 1 N hydrochloric acid and the combined aqueous extracts were warmed on a steam bath for one hour. The aqueous solution was cooled, made basic with solid sodium bicarbonate and extracted with (3×100 ml.) ether. The combined ether extracts were dried and evaporated to give 2.1 g. (53%) of a yellow oil. b.p. 50°-53° C. (0.3 torr).

reactant | 2-methyl-4-cyanopyridine | 29.7 mmoles | CC1=NC=CC(=C1)C#N | C7H6N2
reactant | methyl magnesium bromide | 3.0 M | C[Mg]Br
reactant | water | O | H2O
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2-methyl-4-acetylpyridine | CC1=NC=CC(=C1)C(C)=O | C8H9NO
